US08614209B2
5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester (0.261 g, 0.99 mmol) was dissolved in DMF (4 mL) and urea (0.131 g, 2.18 mmol) was added. The vessel was purged with nitrogen then sealed and heated by microwave irradiation at 140° C. for 10 minutes. The resultant mixture was diluted with water and extracted with ethyl acetate (×3). The organic phase was washed with lithium chloride (15% aqueous solution) then dried over sodium sulfate, filtered and evaporated to give crude 5-(2-amino-oxazol-5-yl)-thiophene-3-carboxylic acid methyl ester as an orange-brown solid (0.224 g).

reactant | 5-(2-Bromo-acetyl)-thiophene-3-carboxylic acid methyl ester | 0.99 mmol, 0.261 g | COC(=O)C1=CSC(=C1)C(CBr)=O | C8H7BrO3S
reactant | urea | 2.18 mmol, 0.131 g | NC(=O)N | CH4N2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-(2-amino-oxazol-5-yl)-thiophene-3-carboxylic acid methyl ester | 0.224 g | COC(=O)C1=CSC(=C1)C1=CN=C(O1)N | C9H8N2O3S
